US03940394
[4-Chloro-6-(2,3-xylidino)-2-pyrimidinylthio]acetic acid ethyl ester
A stirred mixture of 2.7 g of (4.6-dichloro-2-pyrimidinylthio)acetic acid, ethyl ester, 1.2 g of 2,3-dimethylaniline and 1.06 g of anhydrous sodium carbonate in 20 ml. of ethanol was heated under reflux for 4 hr. The mixture was filtered and water added to the filtrate until a precipitate appeared. The solid was recrystallized from 95% ethanol to a mp. of 88°-93°C.

reactant | (4.6-dichloro-2-pyrimidinylthio)acetic acid, ethyl ester | 2.7 g | ClC1=NC(=NC(=C1)Cl)SCC(=O)OCC | C8H8Cl2N2O2S
reactant | 2,3-dimethylaniline | 1.2 g | CC1=C(N)C=CC=C1C | C8H11N
reactant | sodium carbonate | 1.06 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | [4-Chloro-6-(2,3-xylidino)-2-pyrimidinylthio]acetic acid ethyl ester | C(C)OC(CSC1=NC(=CC(=N1)Cl)NC1=C(C(=CC=C1)C)C)=O | C16H18ClN3O2S
